US07745641B2
In a similar manner to Step 2 of Example 6, 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-formylindol-2-yl]isoindolinone (0.299 g, 0.597 mmol) was dissolved in acetonitrile (15.0 mL), and the solution was treated with pyrrolidine (0.997 mL, 11.9 mmol), acetic acid (0.684 mL, 11.9 mmol) and sodium triacetoxyborohydride (0.633 g, 2.99 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=3/1) to obtain 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone (0.117 g, yield 35%).

reactant | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-formylindol-2-yl]isoindolinone | 0.597 mmol, 0.299 g | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC(=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O8S
reactant | pyrrolidine | 11.9 mmol, 0.997 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 11.9 mmol, 0.684 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.99 mmol, 0.633 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 15.0 mL | C(C)#N | C2H3N
product | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.117 g, yield 35% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC(=C2C1)CN1CCCC1)C(=O)OC(C)(C)C)=O | C28H33N3O7S
